*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.002/0.002
*-- die chiplet5:  metal layers: 2


.subckt chiplet5
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
*-- p/g port #: 4/5

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_2_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_3_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_4_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_2000 0.016324
rs_2_1_0_0_1 ns_2_0_0_2000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_2 ns_2_0_0_4000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_3 ns_2_0_0_6000 ns_2_0_0_8000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_2000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_4000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_6000 ns_2_0_2000_8000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_2000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_4000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_6000 ns_2_0_4000_8000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_2000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_4000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_6000 ns_2_0_6000_8000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_2000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_4000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_6000 ns_2_0_8000_8000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_1_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_1_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_1_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_1_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_2_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_2_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_2_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_2_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_2_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_3_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_3_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_3_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_3_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_3_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_4_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_4_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_4_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_4_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_4_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 2.143e-01ns 0.0  2.643e-01ns 6.5e-03  8.195e-01ns 6.5e-03  8.695e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 22.951
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 3.20115e-13
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 4.053e-02ns 0.0  9.053e-02ns 5.7e-02  6.261e-01ns 5.7e-02  6.761e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 2.70457
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 9.53326e-12
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 7.000e-01ns 0.0  7.500e-01ns 3.0e-01  8.209e-01ns 3.0e-01  8.709e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 2.44226
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 1.93677e-13
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 7.201e-01ns 0.0  7.701e-01ns 4.2e-01  8.368e-01ns 4.2e-01  8.868e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 1.85675
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 2.16715e-12
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 2.857e-01ns 0.0  3.357e-01ns 7.0e-02  6.624e-01ns 7.0e-02  7.124e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 3.39078
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 1.06224e-11
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 8.743e-01ns 0.0  9.243e-01ns 4.7e-01  9.384e-01ns 4.7e-01  9.884e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 2.96026
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 4.70875e-11
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 4.388e-01ns 0.0  4.888e-01ns 2.7e-02  7.491e-01ns 2.7e-02  7.991e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 10.6329
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 5.76512e-12
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 5.394e-01ns 0.0  5.894e-01ns 1.1e-01  6.528e-01ns 1.1e-01  7.028e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 7.24027
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 2.28009e-11
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 5.536e-01ns 0.0  6.036e-01ns 4.2e-01  6.698e-01ns 4.2e-01  7.198e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 1.82893
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 9.20886e-11
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 5.714e-01ns 0.0  6.214e-01ns 1.6e-01  7.370e-01ns 1.6e-01  7.870e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 3.30333
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 3.04435e-11
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 7.123e-01ns 0.0  7.623e-01ns 2.6e-01  8.314e-01ns 2.6e-01  8.814e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 2.88342
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 3.61696e-11
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 7.318e-01ns 0.0  7.818e-01ns 4.8e-02  9.310e-01ns 4.8e-02  9.810e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 9.507
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 1.13268e-11
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 7.474e-01ns 0.0  7.974e-01ns 1.2e-01  8.592e-01ns 1.2e-01  9.092e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 6.78321
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 5.79078e-12
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 3.094e-01ns 0.0  3.594e-01ns 6.4e-02  6.915e-01ns 6.4e-02  7.415e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 3.69046
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 1.14266e-11
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 2.964e-03ns 0.0  5.296e-02ns 4.6e-03  5.723e-01ns 4.6e-03  6.223e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 34.3563
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 1.34615e-12
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 4.715e-01ns 0.0  5.215e-01ns 2.1e-02  7.778e-01ns 2.1e-02  8.278e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 13.803
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 1.07755e-11
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 3.213e-02ns 0.0  8.213e-02ns 6.9e-02  1.840e-01ns 6.9e-02  2.340e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 8.5493
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 6.17953e-12
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 5.006e-01ns 0.0  5.506e-01ns 4.6e-02  8.026e-01ns 4.6e-02  8.526e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 6.42019
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 2.43491e-11
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 5.156e-01ns 0.0  5.656e-01ns 8.4e-02  8.174e-01ns 8.4e-02  8.674e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 3.54605
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 3.01049e-11
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 7.436e-01ns 0.0  7.936e-01ns 3.0e-02  8.557e-01ns 3.0e-02  9.057e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 26.7084
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 4.14058e-12
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 3.066e-01ns 0.0  3.566e-01ns 2.5e-02  6.052e-01ns 2.5e-02  6.552e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 12.2438
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 1.1284e-12
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 7.712e-01ns 0.0  8.212e-01ns 1.1e-01  8.766e-01ns 1.1e-01  9.266e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 7.94097
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.83772e-11
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 4.703e-01ns 0.0  5.203e-01ns 1.3e-01  7.746e-01ns 1.3e-01  8.246e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 2.20403
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 2.22958e-11
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 4.808e-01ns 0.0  5.308e-01ns 2.7e-01  5.786e-01ns 2.7e-01  6.286e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 3.42292
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 4.44891e-11
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 6.235e-01ns 0.0  6.735e-01ns 2.4e-01  7.491e-01ns 2.4e-01  7.991e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 3.0065
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 6.1204e-11
is_0_0_0_0 0 ns_1_0_0_0 pwl(0 0.0 5.944e-01ns 0.0  6.444e-01ns 6.9e-02  7.162e-01ns 6.9e-02  7.662e-01ns 0.0)
rsesr_0_0_0_0 ns_1_0_0_0 ns_1_0_0_0_ci 10.7382
cs_0_0_0_0 ns_1_0_0_0_ci 0 1.38564e-11
is_0_0_0_1 0 ns_1_0_2000_0 pwl(0 0.0 3.533e-01ns 0.0  4.033e-01ns 1.0e-01  6.599e-01ns 1.0e-01  7.099e-01ns 0.0)
rsesr_0_0_0_1 ns_1_0_2000_0 ns_1_0_2000_0_ci 2.92845
cs_0_0_0_1 ns_1_0_2000_0_ci 0 8.00655e-12
is_0_0_0_2 0 ns_1_0_4000_0 pwl(0 0.0 3.639e-01ns 0.0  4.139e-01ns 2.4e-02  9.428e-01ns 2.4e-02  9.928e-01ns 0.0)
rsesr_0_0_0_2 ns_1_0_4000_0 ns_1_0_4000_0_ci 6.34975
cs_0_0_0_2 ns_1_0_4000_0_ci 0 4.16057e-12
is_0_0_0_3 0 ns_1_0_6000_0 pwl(0 0.0 3.809e-01ns 0.0  4.309e-01ns 7.2e-01  4.317e-01ns 7.2e-01  4.817e-01ns 0.0)
rsesr_0_0_0_3 ns_1_0_6000_0 ns_1_0_6000_0_ci 2.46547
cs_0_0_0_3 ns_1_0_6000_0_ci 0 6.44908e-11
is_0_0_0_4 0 ns_1_0_8000_0 pwl(0 0.0 5.289e-01ns 0.0  5.789e-01ns 2.0e-02  8.242e-01ns 2.0e-02  8.742e-01ns 0.0)
rsesr_0_0_0_4 ns_1_0_8000_0 ns_1_0_8000_0_ci 15.1545
cs_0_0_0_4 ns_1_0_8000_0_ci 0 1.0727e-11
is_0_0_0_5 0 ns_1_0_0_2000 pwl(0 0.0 5.410e-01ns 0.0  5.910e-01ns 2.5e-01  6.554e-01ns 2.5e-01  7.054e-01ns 0.0)
rsesr_0_0_0_5 ns_1_0_0_2000 ns_1_0_0_2000_ci 3.14652
cs_0_0_0_5 ns_1_0_0_2000_ci 0 2.08187e-11
is_0_0_0_6 0 ns_1_0_2000_2000 pwl(0 0.0 5.574e-01ns 0.0  6.074e-01ns 1.1e-01  8.460e-01ns 1.1e-01  8.960e-01ns 0.0)
rsesr_0_0_0_6 ns_1_0_2000_2000 ns_1_0_2000_2000_ci 2.85588
cs_0_0_0_6 ns_1_0_2000_2000_ci 0 2.43852e-11
is_0_0_0_7 0 ns_1_0_4000_2000 pwl(0 0.0 1.239e-01ns 0.0  1.739e-01ns 4.5e-02  4.508e-01ns 4.5e-02  5.008e-01ns 0.0)
rsesr_0_0_0_7 ns_1_0_4000_2000 ns_1_0_4000_2000_ci 6.06955
cs_0_0_0_7 ns_1_0_4000_2000_ci 0 3.00995e-13
is_0_0_0_8 0 ns_1_0_6000_2000 pwl(0 0.0 7.150e-01ns 0.0  7.650e-01ns 8.4e-02  9.263e-01ns 8.4e-02  9.763e-01ns 0.0)
rsesr_0_0_0_8 ns_1_0_6000_2000 ns_1_0_6000_2000_ci 5.09471
cs_0_0_0_8 ns_1_0_6000_2000_ci 0 2.03823e-11
is_0_0_0_9 0 ns_1_0_8000_2000 pwl(0 0.0 7.326e-01ns 0.0  7.826e-01ns 3.4e-02  9.308e-01ns 3.4e-02  9.808e-01ns 0.0)
rsesr_0_0_0_9 ns_1_0_8000_2000 ns_1_0_8000_2000_ci 13.2824
cs_0_0_0_9 ns_1_0_8000_2000_ci 0 8.08882e-12
is_0_0_0_10 0 ns_1_0_0_4000 pwl(0 0.0 7.441e-01ns 0.0  7.941e-01ns 8.6e-02  8.578e-01ns 8.6e-02  9.078e-01ns 0.0)
rsesr_0_0_0_10 ns_1_0_0_4000 ns_1_0_0_4000_ci 9.21437
cs_0_0_0_10 ns_1_0_0_4000_ci 0 1.20897e-11
is_0_0_0_11 0 ns_1_0_2000_4000 pwl(0 0.0 7.620e-01ns 0.0  8.120e-01ns 5.4e-01  8.213e-01ns 5.4e-01  8.713e-01ns 0.0)
rsesr_0_0_0_11 ns_1_0_2000_4000 ns_1_0_2000_4000_ci 2.79573
cs_0_0_0_11 ns_1_0_2000_4000_ci 0 5.12194e-11
is_0_0_0_12 0 ns_1_0_4000_4000 pwl(0 0.0 4.565e-01ns 0.0  5.065e-01ns 5.0e-02  7.642e-01ns 5.0e-02  8.142e-01ns 0.0)
rsesr_0_0_0_12 ns_1_0_4000_4000 ns_1_0_4000_4000_ci 5.79992
cs_0_0_0_12 ns_1_0_4000_4000_ci 0 6.00305e-12
is_0_0_0_13 0 ns_1_0_6000_4000 pwl(0 0.0 8.696e-01ns 0.0  9.196e-01ns 5.7e-01  9.360e-01ns 5.7e-01  9.860e-01ns 0.0)
rsesr_0_0_0_13 ns_1_0_6000_4000 ns_1_0_6000_4000_ci 2.37036
cs_0_0_0_13 ns_1_0_6000_4000_ci 0 5.88794e-11
is_0_0_0_14 0 ns_1_0_8000_4000 pwl(0 0.0 8.876e-01ns 0.0  9.376e-01ns 4.6e-01  9.463e-01ns 4.6e-01  9.963e-01ns 0.0)
rsesr_0_0_0_14 ns_1_0_8000_4000 ns_1_0_8000_4000_ci 3.34285
cs_0_0_0_14 ns_1_0_8000_4000_ci 0 5.06919e-11
is_0_0_0_15 0 ns_1_0_0_6000 pwl(0 0.0 5.798e-01ns 0.0  6.298e-01ns 8.8e-02  6.988e-01ns 8.8e-02  7.488e-01ns 0.0)
rsesr_0_0_0_15 ns_1_0_0_6000 ns_1_0_0_6000_ci 8.6294
cs_0_0_0_15 ns_1_0_0_6000_ci 0 8.59746e-12
is_0_0_0_16 0 ns_1_0_2000_6000 pwl(0 0.0 1.447e-01ns 0.0  1.947e-01ns 1.9e-02  8.554e-01ns 1.9e-02  9.054e-01ns 0.0)
rsesr_0_0_0_16 ns_1_0_2000_6000 ns_1_0_2000_6000_ci 6.74578
cs_0_0_0_16 ns_1_0_2000_6000_ci 0 8.63023e-13
is_0_0_0_17 0 ns_1_0_4000_6000 pwl(0 0.0 2.882e-01ns 0.0  3.382e-01ns 1.2e-01  5.789e-01ns 1.2e-01  6.289e-01ns 0.0)
rsesr_0_0_0_17 ns_1_0_4000_6000 ns_1_0_4000_6000_ci 2.51188
cs_0_0_0_17 ns_1_0_4000_6000_ci 0 3.45446e-12
is_0_0_0_18 0 ns_1_0_6000_6000 pwl(0 0.0 7.515e-01ns 0.0  8.015e-01ns 2.1e-01  9.367e-01ns 2.1e-01  9.867e-01ns 0.0)
rsesr_0_0_0_18 ns_1_0_6000_6000 ns_1_0_6000_6000_ci 2.32491
cs_0_0_0_18 ns_1_0_6000_6000_ci 0 6.02753e-11
is_0_0_0_19 0 ns_1_0_8000_6000 pwl(0 0.0 8.942e-01ns 0.0  9.442e-01ns 5.5e-01  9.446e-01ns 5.5e-01  9.946e-01ns 0.0)
rsesr_0_0_0_19 ns_1_0_8000_6000 ns_1_0_8000_6000_ci 3.2481
cs_0_0_0_19 ns_1_0_8000_6000_ci 0 1.35601e-11
is_0_0_0_20 0 ns_1_0_0_8000 pwl(0 0.0 1.123e-02ns 0.0  6.123e-02ns 2.4e-01  1.387e-01ns 2.4e-01  1.887e-01ns 0.0)
rsesr_0_0_0_20 ns_1_0_0_8000 ns_1_0_0_8000_ci 2.9638
cs_0_0_0_20 ns_1_0_0_8000_ci 0 1.57819e-11
is_0_0_0_21 0 ns_1_0_2000_8000 pwl(0 0.0 4.759e-01ns 0.0  5.259e-01ns 9.1e-02  6.308e-01ns 9.1e-02  6.808e-01ns 0.0)
rsesr_0_0_0_21 ns_1_0_2000_8000 ns_1_0_2000_8000_ci 6.39007
cs_0_0_0_21 ns_1_0_2000_8000_ci 0 2.80669e-11
is_0_0_0_22 0 ns_1_0_4000_8000 pwl(0 0.0 1.689e-01ns 0.0  2.189e-01ns 7.0e-02  4.110e-01ns 7.0e-02  4.610e-01ns 0.0)
rsesr_0_0_0_22 ns_1_0_4000_8000 ns_1_0_4000_8000_ci 5.33413
cs_0_0_0_22 ns_1_0_4000_8000_ci 0 1.55013e-11
is_0_0_0_23 0 ns_1_0_6000_8000 pwl(0 0.0 6.354e-01ns 0.0  6.854e-01ns 1.6e-01  7.603e-01ns 1.6e-01  8.103e-01ns 0.0)
rsesr_0_0_0_23 ns_1_0_6000_8000 ns_1_0_6000_8000_ci 4.56601
cs_0_0_0_23 ns_1_0_6000_8000_ci 0 3.2677e-12
is_0_0_0_24 0 ns_1_0_8000_8000 pwl(0 0.0 3.263e-01ns 0.0  3.763e-01ns 1.5e-02  9.172e-01ns 1.5e-02  9.672e-01ns 0.0)
rsesr_0_0_0_24 ns_1_0_8000_8000 ns_1_0_8000_8000_ci 10.2361
cs_0_0_0_24 ns_1_0_8000_8000_ci 0 1.76807e-12

*-- intentional decap
cd_decap_0_0_0_0 nd_1_0_1000_1000 0 8.47022e-11
cd_decap_0_0_0_1 nd_1_0_3000_1000 0 7.18784e-10
cd_decap_0_0_0_2 nd_1_0_5000_1000 0 7.95985e-10
cd_decap_0_0_0_3 nd_1_0_7000_1000 0 1.04699e-09
cd_decap_0_0_0_4 nd_1_0_9000_1000 0 5.7332e-10
cd_decap_0_0_0_5 nd_1_0_1000_3000 0 6.567e-10
cd_decap_0_0_0_6 nd_1_0_3000_3000 0 1.82828e-10
cd_decap_0_0_0_7 nd_1_0_5000_3000 0 2.68498e-10
cd_decap_0_0_0_8 nd_1_0_7000_3000 0 1.06292e-09
cd_decap_0_0_0_9 nd_1_0_9000_3000 0 5.88498e-10
cd_decap_0_0_0_10 nd_1_0_1000_5000 0 6.74199e-10
cd_decap_0_0_0_11 nd_1_0_3000_5000 0 2.04481e-10
cd_decap_0_0_0_12 nd_1_0_5000_5000 0 2.8659e-10
cd_decap_0_0_0_13 nd_1_0_7000_5000 0 5.26764e-10
cd_decap_0_0_0_14 nd_1_0_9000_5000 0 5.65835e-11
cd_decap_0_0_0_15 nd_1_0_1000_7000 0 1.40839e-10
cd_decap_0_0_0_16 nd_1_0_3000_7000 0 2.27387e-10
cd_decap_0_0_0_17 nd_1_0_5000_7000 0 3.02795e-10
cd_decap_0_0_0_18 nd_1_0_7000_7000 0 5.48216e-10
cd_decap_0_0_0_19 nd_1_0_9000_7000 0 7.27862e-11
cd_decap_0_0_0_20 nd_1_0_1000_9000 0 1.58774e-10
cd_decap_0_0_0_21 nd_1_0_3000_9000 0 2.44806e-10
cd_decap_0_0_0_22 nd_1_0_5000_9000 0 8.82019e-10
cd_decap_0_0_0_23 nd_1_0_7000_9000 0 5.67937e-10
cd_decap_0_0_0_24 nd_1_0_9000_9000 0 6.46599e-10
cs_decap_0_0_0_0 ns_1_0_0_0 0 1.81036e-10
cs_decap_0_0_0_1 ns_1_0_2000_0 0 6.63833e-10
cs_decap_0_0_0_2 ns_1_0_4000_0 0 3.06154e-10
cs_decap_0_0_0_3 ns_1_0_6000_0 0 7.88492e-10
cs_decap_0_0_0_4 ns_1_0_8000_0 0 1.28279e-10
cs_decap_0_0_0_5 ns_1_0_0_2000 0 6.17825e-10
cs_decap_0_0_0_6 ns_1_0_2000_2000 0 6.807e-10
cs_decap_0_0_0_7 ns_1_0_4000_2000 0 3.20288e-10
cs_decap_0_0_0_8 ns_1_0_6000_2000 0 3.81572e-10
cs_decap_0_0_0_9 ns_1_0_8000_2000 0 1.4636e-10
cs_decap_0_0_0_10 ns_1_0_0_4000 0 2.10975e-10
cs_decap_0_0_0_11 ns_1_0_2000_4000 0 6.95347e-10
cs_decap_0_0_0_12 ns_1_0_4000_4000 0 3.35177e-10
cs_decap_0_0_0_13 ns_1_0_6000_4000 0 8.20127e-10
cs_decap_0_0_0_14 ns_1_0_8000_4000 0 5.81539e-10
cs_decap_0_0_0_15 ns_1_0_0_6000 0 2.25276e-10
cs_decap_0_0_0_16 ns_1_0_2000_6000 0 2.8818e-10
cs_decap_0_0_0_17 ns_1_0_4000_6000 0 7.73922e-10
cs_decap_0_0_0_18 ns_1_0_6000_6000 0 8.36162e-10
cs_decap_0_0_0_19 ns_1_0_8000_6000 0 5.98503e-10
cs_decap_0_0_0_20 ns_1_0_0_8000 0 6.55915e-10
cs_decap_0_0_0_21 ns_1_0_2000_8000 0 3.04222e-10
cs_decap_0_0_0_22 ns_1_0_4000_8000 0 3.64445e-10
cs_decap_0_0_0_23 ns_1_0_6000_8000 0 4.25754e-10
cs_decap_0_0_0_24 ns_1_0_8000_8000 0 1.89917e-10

*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_2000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_3000_5000  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_8000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_5000_3000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_4000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_5000_7000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_8000_2000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_7000_5000  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_8000_8000  0.001

.ends chiplet5
